US08791123B2
A solution of (2S,5R)-1-tert-butyl 2-ethyl 5-(5-fluoropyridin-3-yl)pyrrolidine-1,2-dicarboxylate (250 mg, 0.739 mmol) in THF (10 mL) was cooled to −78° C. and 0.5 M KHMDS in toluene (1.77 mL, 0.885 mmol) was added dropwise. The reaction was stirred for 1 hour at −78° C. and MeI (59.9 μL, 0.960 mmol) was added. The reaction was allowed to warm to ambient temperature and saturated aqueous NaCl (20 mL) was added. The mixture was extracted with EtOAc (2×50 mL) and the combined organic extracts were filtered and concentrated to afford (2S,5R)-1-tert-butyl 2-ethyl 5-(5-fluoropyridin-3-yl)-2-methylpyrrolidine-1,2-dicarboxylate (255 mg, 98% yield) as a clear oil. MS (apci) m/z=353.1 (M+H).

reactant | (2S,5R)-1-tert-butyl 2-ethyl 5-(5-fluoropyridin-3-yl)pyrrolidine-1,2-dicarboxylate | 0.739 mmol, 250 mg | FC=1C=C(C=NC1)[C@H]1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OCC | C17H23FN2O4
reactant | KHMDS | 0.5 M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 0.885 mmol, 1.77 mL | C1(=CC=CC=C1)C | C7H8
reactant | MeI | 0.960 mmol, 59.9 μL | CI | CH3I
reactant | NaCl | 20 mL | [Na+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,5R)-1-tert-butyl 2-ethyl 5-(5-fluoropyridin-3-yl)-2-methylpyrrolidine-1,2-dicarboxylate | 255 mg, 98% yield | FC=1C=C(C=NC1)[C@H]1CC[C@](N1C(=O)OC(C)(C)C)(C(=O)OCC)C | C18H25FN2O4
